US05173484
a) 1-Benzyl-3-cyano-3-methoxy-pyrrolidine
To a mixture of 1.2 g trifluoroacetic acid and 1.2 g triethylamine in 200 ml dry dichloromethane 8.3 g (90 mmol, 90% proof) 2-methoxyacrylonitrile (J. Chem. Soc. 520, 1942) are added. Thereafter 28.5 g N-benzyl-N-methoxymethyl-N-(trimethylsilylmethyl)amine (Chem. Letters 1117, 1984) are added, and the mixture is stirred overnight at room temperature. The mixture is treated with a saturated solution of sodium hydrogencarbonate, dried with magnesium sulfate, and finally the organic solvents are removed in vacuo and the residue is distilled.

reactant | trifluoroacetic acid | 1.2 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 90 mmol, 200 ml, 8.3 g | ClCCl | CH2Cl2
reactant | 2-methoxyacrylonitrile | COC(C#N)=C | C4H5NO
reactant | N-benzyl-N-methoxymethyl-N-(trimethylsilylmethyl)amine | 28.5 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | 1-Benzyl-3-cyano-3-methoxy-pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(OC)C#N | C13H16N2O
